US08017809B2
Bis(4,4′-(phenyl-butylaminoethoxyboryl)benzyl) ether
The entitled compound (35 mg) was obtained by allowing 40.6 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 23 mg of N-n-butylethanolamine to act in 1 mL of ethanol.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 40.6 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | N-n-butylethanolamine | 23 mg | C(CCC)NCCO | C6H15NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-butylaminoethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCCNCCCC)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCNCCCC)C1=CC=CC=C1 | C38H50B2N2O3
